US07459106B2
Preparation of 3-bromophenyl benzyl sulfide (2).
3-bromobenzenethiol (5 g, 26.44 mmol) was added to a solution of sodium methoxide (1.43 g, 26.48 mmol) in 20 ml of anhydrous methanol. The mixture was stirred for 30 min at room temperature and a solution of benzyl bromide (4.53 g, 26.48 mmol) in 20 ml anhydrous methanol was then added. The reaction mixture was stirred overnight at room temperature, poured into 2M o aqueous NaOH solution (40 ml) and extracted three times with ether (60 ml×3). The combined organic layer was washed with saturated sodium chloride solution and dried over anhydrous magnesium sulfate. After removal of solvent, the product was purified by distillation at 161° C., 0.3 mmHg and isolated in 85.5% (6.31 g) yield. 1H NMR (CDCl3, 500 MHz) δ ppm: 4.12 (s, 2H, CH2), 7.0-7.5 (m, 4H, Ar—H)GC-MS (relative intensity %): 278, 280 (1:1, 30.8, M+), 91(100, PhCH2+).

reactant | 3-bromobenzenethiol | 26.44 mmol, 5 g | BrC=1C=C(C=CC1)S | C6H5BrS
reactant | sodium methoxide | 26.48 mmol, 1.43 g | C[O-].[Na+]
reactant | benzyl bromide | 26.48 mmol, 4.53 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | NaOH | 40 ml | [OH-].[Na+]
solvent | methanol | 20 ml | CO | CH4O
solvent | methanol | 20 ml | CO | CH4O
product | 3-bromophenyl benzyl sulfide | C(C1=CC=CC=C1)SC1=CC(=CC=C1)Br | C13H11BrS
